US05098707
1,3-Dimethyl-4-([(L)-phenylalanyl]amino)-2-[(2-oxopropyl)thio]imidazolium chloride hydrochloride was then prepared: To a solution of 0.050 g (0.00128 mol) of the thione above prepared in 12 mL of acetone was added 0.12 g (0.0013 mol) of chloroacetone, and the solution was stirred 3 days. Additional chloroacetone (0.5 mL) was added at this time and the solution was stirred and refluxed for 24 hours. The solution was concentrated under vacuum and the residue was stirred with 5 mL of ethanol saturated with HCl (gas) for 6 hours. The solution was concentrated under vacuum and the residue was crystallized from isopropyl alcohol ether to obtain the desired 1,3-dimethyl-4-([(L)-phenylalanyl]amino)-2-[(2-oxopropyl)thio]-1H-imidazolium chloride hydrochloride; m.p. indeterminate at 90°-100° C. (softens, then foams).

reactant | 1,3-Dimethyl-4-([(L)-phenylalanyl]amino)-2-[(2-oxopropyl)thio]imidazolium chloride hydrochloride | Cl.[Cl-].C[N+]1=C(N(C(=C1)NC([C@@H](N)CC1=CC=CC=C1)=O)C)SCC(C)=O
reactant | chloroacetone | 0.0013 mol, 0.12 g | ClCC(C)=O | C3H5ClO
reactant | chloroacetone | 0.5 mL | ClCC(C)=O | C3H5ClO
solvent | acetone | 12 mL | CC(=O)C | C3H6O
product | 1,3-dimethyl-4-([(L)-phenylalanyl]amino)-2-[(2-oxopropyl)thio]-1H-imidazolium chloride hydrochloride | Cl.[Cl-].C[NH+]1C(N(C(=C1)NC([C@@H](N)CC1=CC=CC=C1)=O)C)SCC(C)=O | InChI=1S/C17H24N4O2S.2ClH/c1-12(22)11-24-17-20(2)10-15(21(17)3)19-16(23)14(18)9-13-7-5-4-6-8-13;;/h4-8,10,14,17H,9,11,18H2,1-3H3,(H,19,23);2*1H/t14-,17?;;/m0../s1
